US08957064B2
2-{1-[4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzyl]-piperidine-4-yl}-quinoxaline
219.2 mg (0.76 mmol) 2-Piperidine-4-ylquinoxaline are dissolved in 5.5 mL NMP. After addition of 0.2 mL triethylamine the reaction mixture is stirred for one hour. 200 mg (0.64 mmol) 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde and 0.06 mL acetic acid are added. The reaction mixture is stirred overnight at room temperature. 148 mg (0.7 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 18 hours. Additionally 75 mg NaBH(OAc)3 and 0.03 mL acetic acid are added and the stirring is continued for four days. The reaction mixture is treated with saturated NaHCO3 and vigorously stirred for one hour. The precipitate is filtered off, washed with water and dried. This solid is treated three times with each 20 mL dichloromethane. After filtration of the combined dichloromethane extracts the filtrate is evaporated and the residue purified by chromatography on silica gel (dichloromethane/methanol). After an additional purification by HPLC 84 mg (25.8%) of the pure product are obtained.

reactant | 2-Piperidine-4-ylquinoxaline | 0.76 mmol, 219.2 mg | N1CCC(CC1)C1=NC2=CC=CC=C2N=C1 | C13H15N3
reactant | 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.64 mmol, 200 mg | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C20H15N3O
reactant | NaBH(OAc)3 | 0.7 mmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 75 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 5.5 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.03 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.06 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 2-{1-[4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzyl]-piperidine-4-yl}-quinoxaline | CC=1N=C2N(C=C(C(=N2)C2=CC=C(CN3CCC(CC3)C3=NC4=CC=CC=C4N=C3)C=C2)C2=CC=CC=C2)C1 | C33H30N6
